US07473705B2
To 320 mg (0.6 mmol) of (S)-2-{2-methyl-4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-3-phenyl-propan-1-ol in 5 mL of THF were added 0.14 g (0.8 mmol) of 3-(4-hydroxy-phenyl)-propionic acid methyl ester and 0.2 g (0.8 mmol) of triphenylphosphine. The mixture was cooled to 0°, was treated with 0.12 mL (0.8 mmol) of DEAD and was stirred at room temperature overnight. A solution of NH4Cl was added, the phases were separated and the inorganic one was extracted with EtOAc. The combined organic phases were washed with brine, dried (Na2SO4), filtered and evaporated. The crude product was purified by column chromatography on silica gel with EtOAc/n-heptane 1:3 to yield 330 mg (79%) of 3-[4-((S)-2-{2-methyl-4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-3-phenyl-propoxy)-phenyl]-propionic acid methyl ester as a yellow oil.

reactant | (S)-2-{2-methyl-4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-3-phenyl-propan-1-ol | 0.6 mmol, 320 mg | CC1=C(O[C@H](CO)CC2=CC=CC=C2)C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)OCC1=CC=C(C=C1)OC | C27H26F6O4
reactant | 3-(4-hydroxy-phenyl)-propionic acid methyl ester | 0.8 mmol, 0.14 g | COC(CCC1=CC=C(C=C1)O)=O | C10H12O3
reactant | triphenylphosphine | 0.8 mmol, 0.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.8 mmol, 0.12 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[4-((S)-2-{2-methyl-4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-3-phenyl-propoxy)-phenyl]-propionic acid methyl ester | 330 mg, 79% | COC(CCC1=CC=C(C=C1)OC[C@H](CC1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OCC1=CC=C(C=C1)OC)C)=O | C37H36F6O6
